US04894369
1-[(2β,3α,5α,16β,17β)-17-acetyloxy-3-hydroxy-2-(4-morpholinyl)-androstan-16-yl]-1(2-propenyl)pyrrolidinium bromide
2-propenyl bromide (1.95 ml) was added to a solution of (2β,3α,5α,16β,17β)-2-(4-morpholinyl)-16(1-pyrrolidinyl)-androstane-3,17-diol 17-acetate (1.35 g) in dichloromethane (27 ml) and the solution was sealed in a pressure bottle at room temperature for 22 h. The solvent was removed under reduced pressure with the minimum of heating and the crude solid (1.59 g) was chromatographed on alumina (Fluka type 5016A). The pure fractions were combined, taken up in dichloromethane (15 ml) and diethyl ether (100 ml) was added to precipitate pure 1-[(2β,3α,5α,16β,17β)-17-acetyloxy-3-hydroxy-2-(4-morpholinyl)-androstan-16-yl]-1-(2propenyl)-pyrrolidinium bromide (1.14 g), m.p. 161°-169° C.; [α]D20 =+18.7° (c 1.03 in CHCl3).

reactant | 2-propenyl bromide | 1.95 ml | C(C=C)Br | C3H5Br
reactant | (2β,3α,5α,16β,17β)-2-(4-morpholinyl)-16(1-pyrrolidinyl)-androstane-3,17-diol 17-acetate | 1.35 g | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](C[C@@H]1N1CCCC1)[C@@H]1CC[C@H]3C[C@@H]([C@H](C[C@]3(C)[C@H]1CC2)N2CCOCC2)O | C29H48N2O4
solvent | dichloromethane | 27 ml | ClCCl | CH2Cl2
product | 1-[(2β,3α,5α,16β,17β)-17-acetyloxy-3-hydroxy-2-(4-morpholinyl)-androstan-16-yl]-1(2-propenyl)pyrrolidinium bromide | [Br-].C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](C[C@@H]1[N+]1(CCCC1)CC=C)[C@@H]1CC[C@H]3C[C@@H]([C@H](C[C@]3(C)[C@H]1CC2)N2CCOCC2)O | InChI=1S/C32H53N2O4.BrH/c1-5-14-34(15-6-7-16-34)28-20-26-24-9-8-23-19-29(36)27(33-12-17-37-18-13-33)21-32(23,4)25(24)10-11-31(26,3)30(28)38-22(2)35;/h5,23-30,36H,1,6-21H2,2-4H3;1H/q+1;/p-1/t23-,24+,25-,26-,27-,28-,29-,30-,31-,32-;/m0./s1
